US05102877
3-Acetylpyridine (10 g), ethylene glycol (50 ml) and p-toluenesulfonic acid (0.5 g) were dissolved in toluene and the solution was refluxed at 150° C. for 1 day with the by-product water being constantly removed. After cooling, saturated aqueous sodium hydrogen carbonate and toluene were added and the mixture was stirred and allowed to stand. The aqueous layer was separated and extracted with 2 portions of toluene. The toluene layers were combined, washed sequentially with saturated aqueous sodium hydrogen carbonate, water and aqueous sodium chloride solution, and dried over anhydrous magnesium sulfate. Finally the solvent was distilled off under reduced pressure to give 2-methyl-2-(pyridin-3-yl)-1,3-dioxolane (13.6 g).

reactant | 3-Acetylpyridine | 10 g | C(C)(=O)C=1C=NC=CC1 | C7H7NO
reactant | ethylene glycol | 50 ml | C(CO)O | C2H6O2
reactant | p-toluenesulfonic acid | 0.5 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 2-methyl-2-(pyridin-3-yl)-1,3-dioxolane | 13.6 g | CC1(OCCO1)C=1C=NC=CC1 | C9H11NO2
